US09238639B2
D) Methyl(7-chloro-6-((2,4-dichlorobenzyl)oxy)-1-benzofuran-3-yl)acetate
To a mixture of methyl(7-chloro-6-hydroxy-1-benzofuran-3-yl)acetate (200 mg) and DMF (dry) (8.0 mL) were added K2CO3 (172 mg) and 2,4-dichlorobenzyl chloride (0.138 mL). The mixture was stirred at 60° C. for 1.5 h. The mixture was quenched with water. The precipitate was collected by filtration and washed with water and hexane to give the title compound (272 mg) as a solid. The solid was crystallized from EtOAc-hexane to give the title compound.

reactant | methyl(7-chloro-6-hydroxy-1-benzofuran-3-yl)acetate | 200 mg | COC(CC1=COC2=C1C=CC(=C2Cl)O)=O | C11H9ClO4
reactant | K2CO3 | 172 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-dichlorobenzyl chloride | 0.138 mL | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
product | Methyl(7-chloro-6-((2,4-dichlorobenzyl)oxy)-1-benzofuran-3-yl)acetate | 272 mg | COC(CC1=COC2=C1C=CC(=C2Cl)OCC2=C(C=C(C=C2)Cl)Cl)=O | C18H13Cl3O4
